US03974152
a. Diphenylmethyl 7β-amino-3-(2-cyanoethyl)ceph-3-em-4-carboxylate
A suspension of phosphorus pentachloride (606 mg., ca 2.9 mmole) in methylene dichloride (5 ml) was warmed until most of the phosphorus pentachloride had dissolved. A solution of pyridine in methylene dichloride (4.6 ml., as a 10% v/v solution, ca 5.7 mmole) was added, and the mixture cooled to 0°. A solution of diphenylmethyl 3-(2-cyanoethyl)-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate (700 mg ca 1.3 mmole) in methylene dichloride (9 ml) was added and the mixture was stirred at 0° for 30 minutes. After a further 30 minutes at 25° the solution was run into a vigorously stirred mixture of methanol (2 ml.) and methylene dichloride (10 ml). the resulting solution was washed with dilute aqueous sodium bicarbonate solution and water, and dried and evaporated in vacuo the residue was triturated with petroleum to remove traces of pyridine and the resulting solid (500 mg) dissolved in ethyl acetate. The solvent was removed in vacuo and the residue washed with ether to give the title compound (450 mg) as small needles m.p. 118° to 122° (decomp) [α]D25 49.1° (c 1.3, CHCl3) λmax. (CHCl3) 258.5 nm (ε 5,950) νmax. (CHBr3) 3450 and 3380 (NH2), 1780 (β-lactam) 1728 CO2R) and 758 and 740 (CHPh2) cm.-1 τ (CDCl3) 2.62 (Ph), 3.05 (CHPh2) 5.06 and 5.23 (C6 and C7 --H, two doublets J 5 Hz.) 6.48 and 6.65 (C2 --CH2AB-quartet, J 18 Hz.) 7.1 to 7.6 (CH2CH2CN complex) 7.5 (NH2). The compound ran to the cathode on electrophoresis at pH 1.9

reactant | phosphorus pentachloride | ca 2.9 mmole, 606 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | diphenylmethyl 3-(2-cyanoethyl)-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate | ca 1.3 mmole, 700 mg | C(#N)CCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C29H25N3O4S2
reactant | methanol | 2 ml | CO | CH4O
solvent | methylene dichloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 9 ml | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Diphenylmethyl 7β-amino-3-(2-cyanoethyl)ceph-3-em-4-carboxylate | 450 mg | N[C@H]1[C@@H]2N(C(=C(CS2)CCC#N)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H21N3O3S
